US06743794B2
To sodium hydride (0.42 g, 10.5 mmol, washed with hexanes ×3) in dimethylformamide (15 mL) was added 5-hydroxy-nicotinic acid methyl ester (1.53 g, 10.0 mmol) in dimethylformamide (10 mL). After three minutes, iodomethane (0.65 mL, 10.5 mmol) was added dropwise while stirring at room temperature. After 1 h, the reaction was quenched with methanol and concentrated to a brown oil. The solution was dissolved in 20% isopropanol/chloroform, washed with saturated aqueous sodium bicarbonate solution, brine (×3), dried over magnesium sulfate and concentrated to give 1.46 g of 6-methoxynicotinic acid methyl ester. The resulting oil was dissolved in tetrahydrofuran (50 mL), and added to a solution of 5N NaOH (20 mL, 100 mmol) and water (5 mL). After 30 minutes, an additional 25 mL of 5N NaOH was added to the solution. After one hour, the reaction was acidified to pH 3 with 5N HCl and concentrated. To the resulting white solids was added 20% MeOH/CHCl3 and the mixture was sonicated for 20 minutes. The mixture was filtered, and the mother liquor was dried over MgSO4 and concentrated to give 1.38 g as a light yellow solid, 90% yield.

reactant | sodium hydride | 10.5 mmol, 0.42 g | [H-].[Na+]
reactant | 5-hydroxy-nicotinic acid methyl ester | 10.0 mmol, 1.53 g | COC(C1=CN=CC(=C1)O)=O | C7H7NO3
reactant | iodomethane | 10.5 mmol, 0.65 mL | IC | CH3I
reactant | dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
reactant | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-methoxynicotinic acid methyl ester | 1.46 g, 90% yield | COC(C1=CN=C(C=C1)OC)=O | C8H9NO3
